** sch_path: design/vco.sch
**.subckt vco
XL1 VDD OUTP 0 inductor w=8.22e-6 s=3.74e-6 d=141.975e-6 nr_r=4 m=1
XL2 VDD OUTN 0 inductor w=8.22e-6 s=3.74e-6 d=141.975e-6 nr_r=4 m=1
XC1 OUTP OUTN cap_cmim w=3.65e-6 l=3.65e-6 m=1
XCVP1 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP2 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP3 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP4 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP5 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP6 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP7 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP8 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP9 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP10 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP11 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP12 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP13 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP14 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP15 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVP16 VCTRL OUTP VCTRL OUTP sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN1 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN2 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN3 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN4 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN5 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN6 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN7 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN8 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN9 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN10 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN11 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN12 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN13 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN14 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN15 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XCVN16 VCTRL OUTN VCTRL OUTN sg13_hv_svaricap w=3.74e-6 l=0.3e-6 Nx=1
XQ1 OUTP OUTN TAIL 0 npn13G2v Nx=1 El=1.0
XQ2 OUTN OUTP TAIL 0 npn13G2v Nx=1 El=1.0
XQ3 TAIL NBIAS TE 0 npn13G2v Nx=1 El=2.0
RTE TE 0 2k m=1
RREF VDD NBIAS 20.5k m=1
XQ4 NBIAS NBIAS RE 0 npn13G2v Nx=1 El=1.0
RRE RE 0 4k m=1
VSUP VDD 0 dc 3.3
.save i(vsup)
VCT VCTRL 0 dc 1.65
**** begin user architecture code


* Model libraries for this elaboration. The paths below are machine-specific,
* so the committed netlist carries placeholder tokens that
* design/run_elaborate.sh substitutes before running ngspice -- the same
* mechanism sim/*/run_*.sh use for their testbench templates. The token list
* and what each resolves to is documented in design/README.md.
.lib @@MODELS_DIR@@/cornerHBT.lib hbt_typ
.lib @@MODELS_DIR@@/cornerMOShv.lib mos_tt
.lib @@MODELS_DIR@@/cornerCAP.lib cap_typ
.include @@IND_MODEL@@




* A perfectly symmetric differential pair sits on an unstable DC equilibrium;
* this 10 mV differential initial condition is what lets the startup transient
* leave it.  It is an initial condition, not a drive: it is not refreshed.
.ic v(OUTP)=3.305 v(OUTN)=3.295

.control
pre_osdi @@OSDI_MOSVAR@@
* VSUP carries savecurrent=true, which emits a `.save i(vsup)` card -- and a
* .save card RESTRICTS the saved set, so without this `save all` every node
* voltage below is unavailable and `let vdiff = ...` has nothing to read.
save all
op
print v(NBIAS) v(TE) v(TAIL) v(OUTP) v(OUTN) i(VSUP)
* 2 ps ceiling = 100 points per period at 5 GHz, ample for the rising-zero-
* crossing period count design/run_elaborate.sh does; 20 ns is ~100 periods,
* and startup from the .ic below completes inside the first nanosecond
* (net negative conductance / 2C ~ 7 GNp/s), so the 10-20 ns window the
* script measures over is settled oscillation.
foreach vv 0 1.65 3.3
  alter VCT dc = $vv
  tran 1p 20n 0 2p
  let vdiff = v(OUTP) - v(OUTN)
  wrdata vco_tran_$vv vdiff
* Differential-mode evidence, not decoration. A genuinely differential tank
* puts the whole fundamental into vdiff and leaves the common mode and the
* tail node with only the 2f component the two half-circuits pump in phase;
* two independently-resonating branches would instead show a fundamental in
* vcm. run_elaborate.sh reports Vpp(vcm)/Vpp(vdiff) and the tail node's own
* crossing-counted frequency against f_osc for exactly that test.
  let vcm = (v(OUTP) + v(OUTN))/2 - 3.3
  wrdata vco_cm_$vv vcm
  let vtl = v(TAIL) - mean(v(TAIL))
  wrdata vco_tail_$vv vtl
* Large-signal supply current: the row-8 power number the DC operating point
* alone cannot give, since the pair's average current shifts once it is
* switching. Sign flipped so the printed number is current OUT of the rail.
  let isup = -i(VSUP)
  wrdata vco_isup_$vv isup
end
.endc


**** end user architecture code
**.ends
.end
